US08802670B2
To a solution of 5-bromo-2-chlorophenol (1.0 g) in tetrahydrofuran (10 ml) under nitrogen was added sodium hydride, 60% dispersion in mineral oil (0.20 g). The solution was stirred at room temperature. After 30 minutes a solution of 4-methoxybenzylbromide (0.97 g) was added in tetrahydrofuran (7 ml). The reaction mixture was stirred at 50° C. overnight. The reaction mixture was partitioned between dichloromethane and brine, then dried (MgSO4), the solvents were removed in vacuo to give a crude residue. This crude residue was purified using flash chromatography to give 4-bromo-1-chloro-2-(4-methoxy-benzyloxy)-benzene (0.96 g).

reactant | 5-bromo-2-chlorophenol | 1.0 g | BrC=1C=CC(=C(C1)O)Cl | C6H4BrClO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxybenzylbromide | 0.97 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4-bromo-1-chloro-2-(4-methoxy-benzyloxy)-benzene | 0.96 g | BrC1=CC(=C(C=C1)Cl)OCC1=CC=C(C=C1)OC | C14H12BrClO2
